US08026257B2
7-(((4-Phenylpiperidin-4-yl)methoxy)methyl)-1H-indazole.
tert-Butyl 4-phenyl-4-(((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate (34 mg, 0.06 mmol) was treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 2 mL) for 4 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvent was evaporated and the compound purified by reverse phase HPLC to afford 11 mg (56%) as a clear oil. 1H-NMR (CDCl3, 500 MHz) δ 8.91 (s, 1H), 8.24 (m, 1H), 7.76 (d, J=8.2 Hz, 1H), 7.40-7.43 (m, 2H), 7.28-7.35 (m, 4H), 7.22-7.25 (m, 1H), 4.81 (s, 2H), 3.48 (s, 2H), 3.38-3.41 (m, 2H), 2.96-2.97 (m, 2H), 2.39-2.41 (m, 4H). Mass spec.: 322.08 (MNa)+. Accurate mass spec.: m/z 322.1909 [MH]+, Δ=3.2 ppm.

reactant | tert-Butyl 4-phenyl-4-(((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate | 0.06 mmol, 34 mg | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC=1C=CC=C2C=NN(C12)COCC[Si](C)(C)C | C31H45N3O4Si
reactant | trifluoroacetic acid methylene chloride | 2 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | 7-(((4-Phenylpiperidin-4-yl)methoxy)methyl)-1H-indazole | C1(=CC=CC=C1)C1(CCNCC1)COCC=1C=CC=C2C=NNC12 | C20H23N3O
